US04804668
m-Chloroperbenzoic acid (28.8 g) was added dropwise to a stirred solution of 5-methyl-2H-1,4-thiazin-3(4H)-one (15 g) in methanol (300 ml) under ice-cooling and the mixture was stirred at room temperature for 1 day. After the mixture was evaporated to dryness, the residue was extracted with ethyl acetate, washed with saturated sodium bicarbonate aqueous solution and dried over anhydrous magnesium sulfate. The solvent was evaporated to dryness to give 2-methoxy-5-methyl-2H-1,4-thiazin-3(4H)-one (11.3 g, yield 61%) as pale yellow powder.

reactant | m-Chloroperbenzoic acid | 28.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-methyl-2H-1,4-thiazin-3(4H)-one | 15 g | CC=1NC(CSC1)=O | C5H7NOS
solvent | methanol | 300 ml | CO | CH4O
product | 2-methoxy-5-methyl-2H-1,4-thiazin-3(4H)-one | 11.3 g, yield 61% | COC1SC=C(NC1=O)C | C6H9NO2S
